US07576115B2
Synthesis of 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoic acid
Methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoate (100 mg, 0.19 mmol) synthesized in Synthetic Example 102 was dissolved in methanol (6.7 ml), and 1 M sodium hydroxide aqueous solution (0.96 ml, 0.96 mmol) was added thereto, following by stirring overnight at room temperature. After completion of the stirring, the reaction solution was washed with ethyl acetate, and to the aqueous layer, 1 M hydrochloric acid was added. The precipitated solid was filtered to obtain 27 mg of the desired product as a pale yellow solid (yield 28%).

reactant | Methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoate | 0.19 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C25H28N6O5S
reactant | sodium hydroxide | 0.96 mmol, 1 M, 0.96 ml | [OH-].[Na+]
solvent | methanol | 6.7 ml | CO | CH4O
product | 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoic acid | 27 mg, yield 28% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])O | C24H26N6O5S
